US07745475B2
3-[(3,5-Difluorophenyl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide
A solution of 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide (202 mg, 0.5 mmol), 3,5-difluorophenylboronic acid (156 mg, 1.0 mmol), copper (II) acetate (182 mg, 1.0 mmol), triethylamine (252 mg, 2.5 mmol) and freshly activated 4 Å molecular sieves (1.5 g) in DCM (10 mL) was stirred at ambient temperature and under ambient atmosphere for 64 hours. The reaction mixture was filtered, washed with DCM (2×10 mL), evaporated in vacuo and the residual oil partitioned between ethyl acetate (25 mL) and 1M hydrochloric acid (10 mL). The ethyl acetate layer was separated, washed sequentially with aqueous sodium hydrogen carbonate solution and brine, dried (MgSO4), and evaporated to a residue which was chromatographed by preparative HPLC on C18 reversed phase using 5-95% acetonitrile (+0.2% TFA) in water (+0.2% TFA) as eluant to give the title compound (45 mg).

reactant | 3-((1S)-2-{[tert-butyl(dimethyl)silyl]oxy}-1-methylethyloxy)-5-hydroxy-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 0.5 mmol, 202 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O)C | C20H31N3O4Si
reactant | 3,5-difluorophenylboronic acid | 1.0 mmol, 156 mg | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | triethylamine | 2.5 mmol, 252 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | copper (II) acetate | 1.0 mmol, 182 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-[(3,5-Difluorophenyl)oxy]-5-{[(1S)-2-hydroxy-1-methylethyl]oxy}-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 45 mg | FC=1C=C(C=C(C1)F)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](CO)C | C20H19F2N3O4
